US07960369B2
methyl 3-(4-((3-(2,6-dimethylphenoxy)benzyl)oxy)phenyl)propanoate
To a solution of methyl 3-(4-hydroxyphenyl)propanoate (0.25 g, 1.39 mmol), [3-(2,6-dimethylphenoxy)phenyl]methanol (0.41 g, 1.81 mmol) and triphenylphosphine (0.47 g, 1.81 mmol) in tetrahydrofuran (5 mL) was added dropwise diethyl azodicarboxylate toluene solution (40%, 0.82 mL) with stirring at 0° C., and the mixture was stirred at room temperature for 16 hrs. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=4/1) to give the title compound (0.27 g, yield 50%) as a yellow oil.

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 1.39 mmol, 0.25 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | [3-(2,6-dimethylphenoxy)phenyl]methanol | 1.81 mmol, 0.41 g | CC1=C(OC=2C=C(C=CC2)CO)C(=CC=C1)C | C15H16O2
reactant | triphenylphosphine | 1.81 mmol, 0.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 0.82 mL | C1(=CC=CC=C1)C.N(=NC(=O)OCC)C(=O)OCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | methyl 3-(4-((3-(2,6-dimethylphenoxy)benzyl)oxy)phenyl)propanoate | 0.27 g, yield 50% | CC1=C(OC=2C=C(COC3=CC=C(C=C3)CCC(=O)OC)C=CC2)C(=CC=C1)C | C25H26O4
